US07314936B2
A solution of 5-nitro-indole-1-carboxylic acid tert-butyl ester (0.50 g) and catalytic amount of Pd(OH)2 in a mixture of MeOH-EtOAc was stirred at room temperature under hydrogen for 1 h. The reaction mixture was filtered through celite and the filtrate was concentrated to provide 5-amino-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (0.44 g, 98%).

reactant | 5-nitro-indole-1-carboxylic acid tert-butyl ester | 0.50 g | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C13H14N2O4
solvent | MeOH EtOAc | CO.CCOC(=O)C
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | 5-amino-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 0.44 g, 98% | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)N | C13H18N2O2
